US04288435
Preparation of 7-[2-{N-(3-Pyridyl)carbamoylmethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer).
A mixture of phosphorus oxychloride (1.6 g.) and N,N-dimethylformamide (31 ml.) was warmed at 40° C. for 30 minutes followed by cooling to -10° C. To the mixture was added 2-[N-(3-pyridyl)carbamoylmethoxyimino]-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (3.1 g.) followed by stirring for an hour at -10° to -7° C. On the other hand, a mixture of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3.2 g.) and trimethylsilylacetamide (7 g.) in methylene chloride (60 ml.) was stirred for 30 minutes at room temperature and then cooled to -15° C. To the mixture was added the above obtained dimethylformamide mixture followed by stirring for 1.5 hours at -15° to -10° C. To the reaction mixture were added ice-cold water and sodium bicarbonate. The aqueous layer (pH 7 to 8) was separated and washed with ethyl acetate and then thereto was added ethyl acetate. After the pH was adjusted to 3 to 4 with 10% hydrochloric acid, the precipitates were collected and then dissolved in an aqueous solution of sodium bicarbonate. The resulting mixture was treated with activated charcoal and the aqueous layer was separated and then adjusted to pH 3 to 4 with 10% hydrochloric acid. The precipitates were collected by filtration and dried to give the title compound (2.0 g.).

reactant | phosphorus oxychloride | 1.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-[N-(3-pyridyl)carbamoylmethoxyimino]-2-(2-formamidothiazol-4-yl)acetic acid | 3.1 g | N1=CC(=CC=C1)NC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C13H11N5O5S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.2 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | trimethylsilylacetamide | 7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 31 ml | CN(C=O)C | C3H7NO
product | 7-[2-{N-(3-Pyridyl)carbamoylmethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.0 g | N1=CC(=CC=C1)NC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C23H21N11O7S3
